US04723016
The procedure of Example 1 was followed using methyl perfluoropropionate (3 mL, 23.4 mmol), sodium trimethylsilanolate (2.63 g, 23.4 mmol), dry methylene chloride (100 mL), and a 1 h reaction time. Sodium perfluoropropionate (4.0 g, 92% yield) was obtained as a white solid: 1H NMR (D2O) δ -82.4 (t, J=2 Hz, CF3, 3F), -120.1 ppm (q, J=2 Hz, CF2, 2F).

reactant | methyl perfluoropropionate | 23.4 mmol, 3 mL | FC(C(=O)OC)(C(F)(F)F)F | C4H3F5O2
reactant | sodium trimethylsilanolate | 23.4 mmol, 2.63 g | C[Si]([O-])(C)C.[Na+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | Sodium perfluoropropionate | 4.0 g, 92% yield | FC(C(=O)[O-])(C(F)(F)F)F.[Na+] | InChI=1S/C3HF5O2.Na/c4-2(5,1(9)10)3(6,7)8;/h(H,9,10);/q;+1/p-1
